US05051422
N-[[4-(2-Methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride
In a manner similar to Preparation 3, react 4-(2-methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine (3.8 g, 12 mmol) with 4-[(methylsulfonyl)amino]benzoyl chloride (3.2 g, 14 mmol) to give the title compound.

reactant | 4-(2-methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine | 12 mmol, 3.8 g | COC1=C(C=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)CN | C19H25N3O
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 14 mmol, 3.2 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[[4-(2-Methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.COC1=C(C=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/C27H32N4O4S.ClH/c1-35-26-11-7-6-10-25(26)31-17-16-30(19-21-8-4-3-5-9-21)24(20-31)18-28-27(32)22-12-14-23(15-13-22)29-36(2,33)34;/h3-15,24,29H,16-20H2,1-2H3,(H,28,32);1H
